US07439240B2
(i) 4-[6-Chloro-5-nitro-2-(propylthio)pyrimidin4-yl]morpholine
Morpholine (2.6 g) was added dropwise to a stirred solution of 4,6-dichloro-5-nitro-2-propylthiopyrimidine (8 g) and N,N-diisopropylethylamine (3.85 g) in acetonitrile (70 ml ) at 0° C. After 1 h the solvent was evaporated and the residue partitioned between ethyl acetate and water, the organics dried (MgSO4) and evaporated under reduced pressure. The residue was purified by chromatography on silica eluting with 25% ethyl acetate in isohexane. Yield 7.1 g

reactant | Morpholine | 2.6 g | N1CCOCC1 | C4H9NO
reactant | 4,6-dichloro-5-nitro-2-propylthiopyrimidine | 8 g | ClC1=NC(=NC(=C1[N+](=O)[O-])Cl)SCCC | C7H7Cl2N3O2S
reactant | N,N-diisopropylethylamine | 3.85 g | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 70 ml | C(C)#N | C2H3N
product | 4-[6-Chloro-5-nitro-2-(propylthio)pyrimidin4-yl]morpholine | ClC1=C(C(=NC(=N1)SCCC)N1CCOCC1)[N+](=O)[O-] | C11H15ClN4O3S
